US04315861
5 g N-butyl-carbamic acid benzoic acid sulfimide are suspended in the mixture of 1.67 g of phenol and 50 ml of water, then while stirring (5 hours), a solution of 0.71 g of sodium hydroxide in 50 ml water is added. After stirring another 3 hours, the mixture is extracted with 2×30 ml of ether. The ethereal extracts are dried with sodium sulfate, then the solvent is evaporated in a vacuum at a temperature not above 30° C. 2.15 g of phenyl N-butyl-carbamate are obtained, which can be distilled at 146°-148° C. at 2 mmHg.

reactant | N-butyl-carbamic acid benzoic acid sulfimide | 5 g | [SH2]=N.C(C1=CC=CC=C1)(=O)O.C(CCC)NC(O)=O
reactant | phenol | 1.67 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydroxide | 0.71 g | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | phenyl N-butyl-carbamate | 2.15 g | C(CCC)NC(OC1=CC=CC=C1)=O | C11H15NO2
